US07501411B2
Step 1: (5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine
A mixture of 5,8-dibromo-[1,2,4]triazolo[1,5-a]pyrazine (2 g, 7.20 mmol), 4-(4-methyl-piperazin-1-yl)-phenylamine (1.65 g, 8.64 mmol) and N-ethyldiisopropyl-amine (1.5 mL, 8.64 mmol) is heated at 80° C. in 2-propanol (50 mL) for 8 hours. The reaction mixture is evaporated to dryness and the residue partitioned between dichloromethane and water. The aqueous phase is extracted twice with dichloromethane. The organic layers are washed with brine, dried over MgSO4, filtered and evaporated to furnish the title compound (1.41 g) as a grey solid. 1H-NMR (400 MHz, d6-DMSO) δ(ppm) 2.27 (3H, s), 2.54 (4H, m), 3.14 (4H, m), 6.97 (2H, d), 7.80 (2H, d), 7.87 (1H, s), 8.72 (1H, s), 9.92 (1H, br s). LCMS: Rt 2.07 min (77.4%), m/z (APCI) 388 (M+H)+.

reactant | 5,8-dibromo-[1,2,4]triazolo[1,5-a]pyrazine | 7.20 mmol, 2 g | BrC1=CN=C(C=2N1N=CN2)Br | C5H2Br2N4
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 8.64 mmol, 1.65 g | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | N-ethyldiisopropyl-amine | 8.64 mmol, 1.5 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 2-propanol | 50 mL | CC(C)O | C3H8O
product | (5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 1.41 g | BrC1=CN=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2CCN(CC2)C | C16H18BrN7
